US04788039
0.1 gr N-1-naphthylethylene diamine.
35 ml of 2.5% sulfanilamide in 5% aqueous phosphoric acid in packed with 15 gr Freon 12 using 0.5 gr Emcol-14 as emusifier.

reactant | sulfanilamide | 35 ml | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
solvent | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | N-1-naphthylethylene diamine | C1(=CC=CC2=CC=CC=C12)NCCN | C12H14N2
